US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(N-hydroxy-N-methylamidino)-4-trifluoromethylsulfinylpyrazole (Compound No. 1-37)
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinylpyrazol e (1.00 g, 2.29 mmol) was dissolved in 10 ml of 1,4-dioxane and N-methylhydroxylamine hydrochloride (0.38 g, 4.55 mmol) and triethylamine (0.65 ml, 4.68 mmol) were added, and then the mixture was stirred at room temperature for 3 hours. After 30 ml of water, 60 ml of ethyl acetate and 30 ml of an aqueous saturated sodium chloride solution were added, the reaction mixture was shaken and the ethyl acetate layer was taken. The ethyl acetate layer was washed twice with 50 ml of water and dried over anhydrous magnesium sulfate and the solvent was distilled off to obtain a crystal. This crystal was washed with chloroform and then recrystallized from ethanol-hexane to obtain 0.59 g (1.22 mmol) of the title compound as a colorless crystal. Yield 53%.

reactant | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinylpyrazol e | 2.29 mmol, 1.00 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4Cl2F6N4OS
reactant | N-methylhydroxylamine hydrochloride | 4.55 mmol, 0.38 g | Cl.CNO
reactant | triethylamine | 4.68 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(N-hydroxy-N-methylamidino)-4-trifluoromethylsulfinylpyrazole | 1.22 mmol, 0.59 g, Yield 53% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N(C)O)=N)S(=O)C(F)(F)F | C13H9Cl2F6N5O2S
